US09029405B2
Step 2: methyl N-[1-(3-cyanophenyl)ethyl]-N-methylalaninate
Compound was prepared following the general procedure 11 starting from 3-[1-(methylamino)ethyl]benzonitrile and methyl 2-bromopropionate, affording the title compound as a colorless oil. HPLC (Method A) Rt 1.54 min (Purity: 74%).

reactant | 3-[1-(methylamino)ethyl]benzonitrile | CNC(C)C=1C=C(C#N)C=CC1 | C10H12N2
reactant | methyl 2-bromopropionate | BrC(C(=O)OC)C | C4H7BrO2
product | methyl N-[1-(3-cyanophenyl)ethyl]-N-methylalaninate | C(#N)C=1C=C(C=CC1)C(C)N([C@@H](C)C(=O)OC)C | C14H18N2O2
